US06420359B1
g) 5,11-Dihydro-2,5-dimethyl-11-ethyl-8-{2-{(1-oxido-4-quinolinyl)oxy}ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one
Solid mCPBA (80-85%, m-chloroperbenzoic acid) (60 mg, 0.28 mmol) was added to a solution of 5,11-dihydro-2,5-dimethyl-11-ethyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one (55 mg, 0.13 mmol) in CH2Cl2 (1.3 mL) at room temperature. The mixture was stirred at room temperature for 2.5 h then diluted with CH2Cl2. The resulting solution was successively washed with aqueous 10% Na2S2O3, aqueous saturated NaHCO3 and brine, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (MeOH/EtOAc,2% to 5%) to give the title compound (59 mg, 99% yield) as a white solid: MS (ES) m/z 456 (MH)+.

reactant | mCPBA | 0.28 mmol, 60 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 5,11-dihydro-2,5-dimethyl-11-ethyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one | 0.13 mmol, 55 mg | CC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCOC3=CC=NC1=CC=CC=C31)=O)C | C26H25N5O2
solvent | CH2Cl2 | 1.3 mL | C(Cl)Cl | CH2Cl2
product | 5,11-Dihydro-2,5-dimethyl-11-ethyl-8-{2-{(1-oxido-4-quinolinyl)oxy}ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one | 59 mg, 99% yield | CC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCOC3=CC=[N+](C1=CC=CC=C31)[O-])=O)C | C26H25N5O3
